US07507740B2
(iv) Production of 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate
A mixture of 2-[2-(6-methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate (92.3 mg), 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (86.3 mg), pyridine hydrochloride (81.6 mg) and phenol (156.1 mg) was stirred at 120° C. for 3 hrs, and at 140° C. for 5.5 hrs. Further, pyridine hydrochloride (77.6 mg) and phenol (188.7 mg) were added, and the mixture was stirred at 140° C. for 22.5 hrs. The reaction mixture was diluted with dichloromethane, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by basic silica gel column chromatography (eluent, hexane:ethyl acetate=50:50→0:100) to give the title compound (33.3 mg) as a purple oil.

reactant | 2-[2-(6-methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 92.3 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C(=CC=2N=CN=C(C21)OC2=CC=CC=C2)C | C24H23N3O4
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 86.3 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
reactant | pyridine hydrochloride | 81.6 mg | Cl.N1=CC=CC=C1
reactant | phenol | 156.1 mg | C1(=CC=CC=C1)O | C6H6O
reactant | pyridine hydrochloride | 77.6 mg | Cl.N1=CC=CC=C1
reactant | phenol | 188.7 mg | C1(=CC=CC=C1)O | C6H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate | 33.3 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C(=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)Cl)C | C31H28ClFN4O4
